US08492549B2
Methanesulfonic acid (R)-5-hydroxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester
A mixture of methanesulfonic acid (S)-3-(2,6-dihydroxy-phenoxy)-2-methanesulfonyloxy-propyl ester (253 g, 7.10 mmol) and potassium carbonate (1.14 g, 8.30 mmol) in acetone (30 ml) was refluxed under nitrogen atmosphere for 3.5 h. The reaction mixture was cooled down, filtered and evaporated to dryness. The crude product was purified with flash chromatography using dichloromethane and ethyl acetate as eluents to give 0.75 g of the title compound.

reactant | methanesulfonic acid (S)-3-(2,6-dihydroxy-phenoxy)-2-methanesulfonyloxy-propyl ester | 7.10 mmol, 253 g | OC1=C(OC[C@@H](COS(=O)(=O)C)OS(=O)(=O)C)C(=CC=C1)O | C11H16O9S2
reactant | potassium carbonate | 8.30 mmol, 1.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | Methanesulfonic acid (R)-5-hydroxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester | 0.75 g | OC1=CC=CC=2O[C@H](COC21)COS(=O)(=O)C | C10H12O6S
